US07652053B2
Sodium (1.12 g, 48.6 mmol) was added to ethanol (16 mL). The solution was heated to reflux until all sodium was dissolved. To this solution was added diethyl malonate (3.71 g, 23.19 mmol) in ether (45 mL) and the above 1,2-bis-bromomethyl-4-trifluoromethylbenzene (7.7 g, 23.19 mmol) in ether (45 mL). The mixture was refluxed for 16 hrs and the precipitate was filtered out. The filtrate was evaporated and the residue was treated with water (35 mL) and potassium hydroxide (5.30 g). The mixture was stirred and refluxed for 5 hrs and treated with water (20 mL). The resulting mixture was extracted with ether (50 mL). The aqueous phase was acidified with concentrated hydrochloric acid and cooled in an ice bath. Solids were filtered and washed with water. After air drying, 5-trifluoromethyl-indan-2,2-dicarboxylic acid was obtained (3.08 g). LC-MS showed a single peak, C12H19F3O4 (m/e) calcd 274.0453, obsd 273.0 (M−H).

reactant | Sodium | 48.6 mmol, 1.12 g | [Na] | Na
reactant | ethanol | 16 mL | C(C)O | C2H6O
reactant | diethyl malonate | 23.19 mmol, 3.71 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1,2-bis-bromomethyl-4-trifluoromethylbenzene | 23.19 mmol, 7.7 g | BrCC1=C(C=C(C=C1)C(F)(F)F)CBr | C9H7Br2F3
solvent | ether | 45 mL | CCOCC | C4H10O
solvent | ether | 45 mL | CCOCC | C4H10O
product | 5-trifluoromethyl-indan-2,2-dicarboxylic acid | FC(C=1C=C2CC(CC2=CC1)(C(=O)O)C(=O)O)(F)F | C12H9F3O4
